data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8591,"CCC[CH2:1][Li:2].COC1CCC2(C)O[C:3]12[H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,904,"F[B-](F)(F)[O+:1]1C23CCCC[C:2]21C1=CC=CC=C1N3|((2, 1), 1)"
train,pmechdb_split_0,0,4432,"C1=CC=[C:1]([Li:2])C=C1.CON(C)[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1369,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(CCO)CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4711,"C1=CC=C([N:1]=[N:2][OH2+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4903,"C=C1CC2([O:1][Al-]([Cl])([Cl])[CH2]C)CCCC1C2.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,72,"CCOC(=O)C(C(C)=O)C(C(=O)OCC)C(C)(N)[O-:1].CO.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6326,"C1=CC=[NH+]C=C1.CCOC(=O)C(C(=O)CC1=CC(=O)OC(C)(C)O1)[C:1](CCC1=CC=CC=C1)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9565,"CCO[C:1]1=[CH:2]C=C(Br)C=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6039,"CCC(=O)O[C+:1]1C(Br)=C[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4789,"O[C:1](OCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5830,"CCC(C)C(C)(CC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9077,"CC(=O)CCC[C:1]([CH2:2][H:3])=[O:4].CC[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5239,"O=S(=O)(O)[O:1][H:2].OCCCCCC1C[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3969,"CCC[NH2:1].N#CC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9434,"OC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,8308,"CC(C(=O)[O:1][OH:2])C(O)C1=CC=CC=C1.O=[S:3]([O-])[O-].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4394,"Br[C-:1](Br)Br.COC1=CC(C(=O)[O-])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.[Br-].[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6582,"CCOC(=O)C1CCCC[C:1]1([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7943,"CCO.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CCC(O)([O:1]CCO)CC1CC1=CC=CC=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9502,"C[CH:1]=[O+:2]CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6004,"C[Si-:1](C)(C)(Cl)[F:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8583,"CC=CC(CC)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8677,"C1=CC=[NH+]C=C1.CC1=CC=C(S(=O)(=O)N[NH2:1])C=C1.CC1C2CCC3C(C)(C)C(O[Si](C)(C)C(C)(C)C)CCC3(C)C2C[C:2](=[O:3])C1C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1519,"O=P(O)(O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,238,"CC(=O)CCC(C)(NCCO)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,646,"CCCCCCN1CCC23C=C(O)[CH:1]([OH+:2]C)CC2C1CC1=C3C(O)=C(OC)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,9740,"C[CH:1]=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,174,"CCOCC.C[N:1](C)[CH:2](Cl)[O:3][P+:4](Cl)(Cl)Cl.FB(F)F.O=C(CC1=CC=C(O)C=C1)C1=C(O)C=C(O)C=C1O.[Cl-]|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,3543,"CN1C(=O)C2=CC=CN2C=C1CCCN[C:1](C1=C(C(=O)N[NH2:2])C=CC=C1)=[O:3].NN.O.[Cl-].[K+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,868,"CC(C)(C)OC(=O)[N+:1]1=[CH:2][CH:3]=[C:4]2C(=O)N3CC(O[Si](C)(C)C(C)(C)C)C(O[Si](C)(C)C(C)(C)C)C3C(NC(=O)OCC3=CC=CC=C3)[C:5]21[H:6].O.O=P1([O-:7])OC2=CC=C3C=CC=CC3=C2C2=C(C=CC3=C2C=CC=C3)O1|(7, 6);((6, 5), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6525,"CCN(CC)CC.COC(=O)C[NH:1][CH:2](C1=C(C)C=CC=C1)[OH2+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5358,"CCC1CCC[C:1](C)([H:2])[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,5595,"COC(=O)C1CCC(OCCO)([OH:1])CC1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2312,"CCO[C:1](CCC(C)=O)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2912,"C[CH+]C[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,4233,"O=CC[O:1][CH:2](CO)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,633,"C=CC(=O)O[C:1](C)=[OH+:2].CC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,243,"CCCCBr.CCO[Si-](OCC)(OCC)(C1=CC2=C(C=C1)N(C)C=C2)[O:1]CC.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,6052,"C1=CC=C(OC2=CC([CH2:1][O:2][P+:3](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)=CC=C2)C=C1.CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.O=C(CCCC(F)=C(F)F)[O-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,7164,"Br[C:1](Br)=[CH:2][O-:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2170,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.C[C:2]([O:3][H:4])=[O+:5]C1CC2CCC1C2|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,608,"C1=CC=[NH+]C=C1.CCOC(=O)C(NC(=O)CC(N)=NO[S:1](C)(=O)([O-:2])[Cl:3])C1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5031,"COC1=CC=C([CH2:1][Cl:2])C=C1.C[N:3](C)N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4706,"C[N:1](C)[CH:2]=[CH2:3].[H:4][OH2+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6656,"C[C+:1]=O.O=S(=O)(O)C1=C[CH:2]=[CH:3]O1|((3, 2), 1)"
train,pmechdb_split_0,0,5153,"C[C:1](Br)=[C:2](C(Br)Br)[O-:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
